US07557213B2
Preparation of 1-(3-Methyl-benzyl)-3-(pyridine-3-carbonyl)-1H-quinolin-4-one (4hh)
Compound 4hh was prepared following the procedure outlined in Step 3 of Example 1 using 16 mg (0.40 mmol) of sodium hydride (60%), 75 mg (0.30 mmol) of 3-(pyridine-3-carbonyl)-1H-quinolin-4-one, 3 mL of anhydrous dimethylformamide, and 74.0 mg (0.4 mmol) of 3-methylbenzylbromide. The crude product was purified by flash chromatography to yield 35 mg of 4hh as a colorless solid: LC-MSD, m/z for C23H18N2O2, [M+H]+=355.4, [M+2H]+=356.4; Reverse phase HPLC (gradient acetonitrile 0.1% TFA 20-95% in 4 min) retention time=1.710 min; 1H NMR (400 MHz, CDCl3/HCl): δ 2.36 (s, 3H), 5.41 (s, 2H), 7.00 (d, 2H), 7.12-7.28 (m, 2H), 7.34-7.45 (m, 3H), 7.60 (m, 1H), 8.09 (m, 1H), 8.42-8.46 (m, 2H), 8.71 (m, 2H), 8.99 (s, 1H).

reactant | sodium hydride | 0.40 mmol, 16 mg | [H-].[Na+]
reactant | 3-(pyridine-3-carbonyl)-1H-quinolin-4-one | 0.30 mmol, 75 mg | N1=CC(=CC=C1)C(=O)C1=CNC2=CC=CC=C2C1=O | C15H10N2O2
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | 3-methylbenzylbromide | 0.4 mmol, 74.0 mg | CC=1C=C(CBr)C=CC1 | C8H9Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(3-Methyl-benzyl)-3-(pyridine-3-carbonyl)-1H-quinolin-4-one | CC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C=2C=NC=CC2)C=CC1 | C23H18N2O2
